Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PSYCHIATRY
 
Allergies: 
Prozac
 
Attending: ___.
 
Chief Complaint:
"I told my therapist how I really feel."

Patient presented to PCP for antidepressants and expressed SI to 
a therapist at the clinic so was sent to the ED.  
 
Major Surgical or Invasive Procedure:
None 
 
History of Present Illness:
HISTORY OF PRESENT ILLNESS:
___ year old man with a history of major depressive disorder who
was BIBA with suicidal ideation.  He said that he met with a
therapist at ___ and told her that he was feeling
suicidal. She wanted him to come to the emergency department, so
he took a cab to ___.  However, he ended up backing out and
went out to the bar with friends instead.  He then went back 
home
and the cops showed up.

He says that he has been thinking about a lot of negative 
things,
like "hurting myself, shit like that." He has been having the
thoughts for the last four days.  He notes that he feels "lonely
and shit like that."  He hasn't seen his family for ___ years
and misses them.  When asked if he is still having thoughts of
harming himself, he initially denies, but then said "maybe I
don't know."  He said that he has the thoughts every night 
before
bed. He denies having a plan and reports that triage (note
suggested plan to hang self) misunderstood him and he said that
he didn't have that plan, but that that was his previous suicide
method in high school. He denies ever having intent to attempt
suicide recently. He says that the family members still have 
some
protective effect for him and prevent him from hurting himself.

He also notes that he has been drinking more lately because he
has been stressed.  He reports drinking daily, but had 
difficulty
quantifying the exact amounts that he has been drinking.  He
reports feeling lonely and hopeless for the last several weeks. 
He endorses sleep changes, anhedonia, and decreased energy.
Denies excessive guilt, decreased concentration. Denies history
or current manic symptom. Denies AVH. Denies HI. 

PAST PSYCHIATRIC HISTORY:
Diagnoses: Major depression disorder
Hospitalizations: Denies
Current treaters and treatment:
*Psychiatrist: None current
*Therapist: ___ provider, doesn't know names.
___ and ECT trials: Fluoxetine, risperidone
Self-injury: 1 prior suicide attempt via hanging. At that time,
he was sent to boarding school and hated it so he planned on
hanging himself.  He said that the rope broke and he didn't tell
anyone about. Denies SIB
Harm to others: Denies
Access to weapons: Denies

 
Past Medical History:
Denies 
 
Social History:
SUBSTANCE ABUSE HISTORY:
- Alcohol Use: Varies. Drinks from a few drinks to a pint of
vodka a day. Denies withdrawal symptoms.
- Tobacco History: Smokes ___ ppd
- Illicit Substances: Denies, but Utox positive for cocaine use.

SOCIAL HISTORY:
___
Family History:
Denies 
 
Physical Exam:
Physical Examination:
VS: 98.2  64   106/65   17   100% RA 
General- ___ male, appearing stated age, wearing
hospital gown and baseball hat, in NAD
HEENT- Normocephalic, atraumatic, moist mucous membranes
Lungs- CTA b/l
CV- RRR and S1S2
Abdomen: Soft NT ND +BS
Extremities- warm and well perfused x4, radial pulses 2+
bilaterally
Neuro- CN's II-XII grossly intact, normal gait, no adventitious
movements, moves all 4 extremities spontaneously against gravity

Neuropsychiatric Examination:
  *Appearance: ___ male, appearing stated age,
wearing hospital gown and baseball hat, in NAD
  Behavior: Cooperative with interview, makes good eye contact,
sits in chair with apparent psychomotor retardation
  *Mood and Affect: "just very depressed, you know?"; patient
appears withdrawn and depressed with +PMR
  *Thought process (including whether linear, tangential,
circumstantial and presence or absence of loose *associations):
no loosening of associatons noted; linear and goal directed
  *Thought Content (including presence or absence of
hallucinations, delusions, homicidal and suicidal ideation, with
details if present): denies SI, HI, AH, VH; no frank delusional
content appreciated
  *Judgment and Insight: poor/poor
  Cognition:
    *Attention, *orientation, and executive function: Able to
recite days of week backwards, oriented to person, place, time,
and reason for admission
    *Memory: intact to history, ___ recall intact after 5 
minutes
    *Fund of knowledge: can name the president and a candidate
running for presidential office (___)
    Calculations: 7 quarters = 1.75$
    Abstraction: apple + orange = fruit
    Visuospatial: did not assess
    *Speech: Normal rate , rhythm, prosody; slightly decreased
volume
    *Language: Intact fluent Englsh

 
Pertinent Results:
___ 02:00AM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-POS amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 01:30AM   GLUCOSE-96 UREA N-7 CREAT-0.7 SODIUM-141 
POTASSIUM-3.4 CHLORIDE-102 TOTAL CO2-23 ANION GAP-19
___ 01:30AM   ASA-NEG ___ ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 01:30AM   WBC-4.9 RBC-5.29 HGB-16.0 HCT-46.4 MCV-88 
MCH-30.2 MCHC-34.5 RDW-12.5 RDWSD-39.7
___ 01:30AM   NEUTS-34.5 ___ MONOS-12.1 EOS-3.1 
BASOS-0.8 IM ___ AbsNeut-1.68 AbsLymp-2.40 AbsMono-0.59 
AbsEos-0.15 AbsBaso-0.04
___ 01:30AM   PLT COUNT-___. LEGAL & SAFETY:  
On admission, the patient refused to sign a conditional 
voluntary agreement and was admitted on a ___, which 
expired on ___.  At that time the patient was not deemed to 
be at risk of harm to self/others, so he was discharged.  They 
were also placed on q15 minute checks status on admission and 
remained on that level of observation throughout while being 
unit restricted.  There were no safety concerns or events for 
the patient during the admission.  

2. PSYCHIATRIC:
#) MDD vs substance induced mood disorder 
The patient had gone to his PCP to ask for antidepressants as he 
was feeling depressed being unable to see his younger brother.  
However, he endorsed suicidal ideation and was asked to go to 
the ED for evaluation.  On the unit, the patient endorsed 
feeling depressed for a few days as his father won't allow him 
to see or speak to his younger brother because his father thinks 
he is a bad influence.  This has been going on for several 
years.  The patient denied suicidal ideation and stated that he 
had been drinking prior to the appointment and didn't mean what 
he said.  He was interested in starting an antidepressant, so 
Remeron 7.5 mg was started to help him sleep and because he 
reported a history of feeling more agitated and anxious on 
Prozac.  He did not wish to sign a CV as he did not agree with 
the admission and wanted to be discharged.  He was interested in 
doing weekly 1:1 therapy but was not as interested in a partial 
program.  He endorsed a difficult relationship with his father 
who he feels tries to control his life.  He was able to 
articulate that he wants his own life, independence and family 
but has no specific plans as to how he wants to achieve these 
things.  His presentation is concerning for a mood disorder, 
however, with the given history of alcohol use and reported 
resolution of his symptoms with no substance use in the hospital 
it is difficult to distinguish from a substance induced mood 
disorder.  However, per collateral, patient did not appear 
intoxicated at PCP ___.      

3. SUBSTANCE USE DISORDERS:
#) Alcohol: Unclear how much patient is drinking as he was not 
very specific.  Possibly up to a pint of vodka a day, though not 
every day.  
 Cocaine: Patient denied cocaine use but had a positive tox 
screen for cocaine.

4. MEDICAL
#) Denies any medical problems 

5. PSYCHOSOCIAL
#) GROUPS/MILIEU:  
The patient was encouraged to participate in the various groups 
and milieu therapy opportunities offered by the unit.  The 
patient’s primary team met with them daily and various 
psychotherapeutic modalities were utilized during those times. 

#) COLLATERAL CONTACTS & FAMILY INVOLVEMENT
The patient refused to allow his family to be contacted.  He did 
allow team to speak with his PCP's office and the therapist he 
saw prior to admission.  

#) INTERVENTIONS
- Medications: Remeron 7.5 mg QHS 
- Psychotherapeutic Interventions: Individual, group, and milieu 
therapy.

INFORMED CONSENT: The team discussed the indications for, 
intended benefits of, and possible side effects and risks of 
starting this medication, and risks and benefits of possible 
alternatives, including not taking the medication, with this 
patient.   We discussed the patient's right to decide whether to 
take this medication as well as the importance of the patient's 
actively participating in the treatment and discussing any  
questions about medications with the treatment team, and I  
answered the patient's questions.  The patient appeared able to 
understand and consented to begin the medication.

RISK ASSESSMENT
On presentation, the patient was evaluated and felt to be at an 
increased risk of harm to himself based upon his depressed mood 
and suicidal thoughts.  Their static factors noted at that time 
include history of suicide attempts, history of substance abuse, 
male gender, age, marital status.  The modifiable risk factors 
included lack of outpatient mental health providers, active 
substance use, limited coping skills and insomnia.  He was 
prescribed Remeron to help with his depression and sleep.  He 
was encouraged to attend coping skills groups on the unit, but 
declined.  He was agreeable to out patient therapy and was 
referred to an outpatient therapist.  Finally, the patient is 
being discharged with many protective risk factors, help-seeking 
nature, future-oriented viewpoint and sense of responsibility to 
family.  Overall, based on the totality of our assessment at 
this time, the patient is not at an acutely elevated risk of 
self-harm nor danger to others. 

Our Prognosis of this patient is guarded as he did not engage 
extensively on the unit in groups and is likely minimizing his 
depression and substance use.  However, he was interested in 
individual therapy and medications and if he is able to follow 
through with therapy and engage in treatment he would likely do 
well.  
 
Medications on Admission:
None

 
Discharge Medications:
1. Mirtazapine 7.5 mg PO QHS 
RX *mirtazapine 7.5 mg 1 tablet(s) by mouth at bedtime Disp #*30 
Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Depression (MDD) vs substance induced mood disorder

 
Discharge Condition:
General: NAD, wearing clean street clothes, appears stated age, 
good hygiene 
Behavior: Cooperative, good eye contact
Speech: linear, regular rate, volume and tone
Mood/Affect: 'good', mood congruent 
Thought content: Linear, goal directed towards discharge, denies 
SI  
Insight/Judgment: Limited/limited 

 
Discharge Instructions:
Discharge Instructions:
You were hospitalized at ___ for depression.  We started you 
on an antidepressant, and you are now ready for discharge and 
continued treatment in outpatient therapy.

-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Please continue all medications as directed.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.

It was a pleasure to have worked with you, and we wish you the 
best of health.

Optional Instructions:
We strongly recommend engaging in AA/NA/SMART recovery meetings 
for ongoing help with sobriety.
Here is a website with links to meetings near your area:
___

 
Followup Instructions:
___